US07705028B2
9b) 7-[4-({[3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-naphthalenecarboxylic acid
A solution of methyl 7-[4-({[3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-naphthalenecarboxylate (0.057 g, 0.1 mmol) in tetrahydrofuran (1.0 mL) was placed in a microwave reaction tube. Methanol (0.5 mL) was added followed by 1 N sodium hydroxide (0.15 mL, 0.15 mmol). The tube was sealed and heated in a microwave reactor to 100° C. for 600 seconds. The solution was neutralized and concentrated. Water was added and the mixture was filtered. The resulting solid was dried in a vacuum oven at 45° C. with P2O5 to yield the title compound (0.048 g, 76% as 0.20 tetrahydrofuran) 1H NMR (DMSO-d6) δ 13.4-12.8 (broad s, approximately 1H), 8.59 (s, 1H), 8.31 (s, 1H), 8.01 (d, J=9 Hz, 1H) 7.94-7.90 (m, 3H), 7.79 (d, J=8 Hz, 2H), 7.43 (d, J=8 Hz, 2H), 7.28-7.24 (m, 1H), 7.14 (d, J=8 Hz, 2H), 4.98 (s, 2H), 3.39-3.21 (2m, overlapping H2O, total 3H), 2.89-2.85 (m, 2H), 1.25 (d, J=7 Hz, 6H). HRMS C32H27NO4Cl2 m/z 560.1395 (M+H)+Cal; 560.1409 (M+H)+Obs.

reactant | methyl 7-[4-({[3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-naphthalenecarboxylate | 0.1 mmol, 0.057 g | ClC1=C(C(=CC=C1)Cl)CCC1=NOC(=C1COC1=CC=C(C=C1)C1=CC=C2C=CC(=CC2=C1)C(=O)OC)C(C)C | C33H29Cl2NO4
reactant | Methanol | 0.5 mL | CO | CH4O
reactant | sodium hydroxide | 0.15 mmol, 1 N, 0.15 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | 7-[4-({[3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-naphthalenecarboxylic acid | 0.048 g, 76% | ClC1=C(C(=CC=C1)Cl)CCC1=NOC(=C1COC1=CC=C(C=C1)C1=CC=C2C=CC(=CC2=C1)C(=O)O)C(C)C | C32H27Cl2NO4
